US06538000B1
9-[3-Fluoro-4-(trifluoromethyl)phenyl]-7,7-dimethyl-5,6,7,9-tetrahydropyrazolo[5,1-b]quinazolin-8(4H)-one
4,4-Dimethyl-1,3-cyclohexanedione, 3-fluoro-4-trifluoromethylbenzaldehyde and 3-aminopyrazole were processed as described in General Procedure A to provide the title compound.

reactant | 4,4-Dimethyl-1,3-cyclohexanedione | CC1(C(CC(CC1)=O)=O)C | C8H12O2
reactant | 3-fluoro-4-trifluoromethylbenzaldehyde | FC=1C=C(C=O)C=CC1C(F)(F)F | C8H4F4O
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
product | 9-[3-Fluoro-4-(trifluoromethyl)phenyl]-7,7-dimethyl-5,6,7,9-tetrahydropyrazolo[5,1-b]quinazolin-8(4H)-one | FC=1C=C(C=CC1C(F)(F)F)C1N2C(NC=3CCC(C(C13)=O)(C)C)=CC=N2 | C19H17F4N3O
